US07935699B2
Oxone (2.05 g, 3.36 mmol) was added to a mixture of 1-methylsulfanylmethyl-3-nitro-1H-pyrazole (194 mg, 1.12 mmol) in methanol (10 mL) and deionized water (100 μL) was allowed to proceed for 16 h with vigorous stirring. The solvent was removed in vacuo and the crude material was purified by ISCO flash column chromatography (Teledyne Isco RediSep Flash Column 10 g; 0% ethyl acetate/hexanes to 50% ethyl acetate/hexanes) afforded 1-methanesulfonylmethyl-3-nitro-1H-pyrazole as a white solid (184 mg, 80%).

reactant | Oxone | 3.36 mmol, 2.05 g | OOS(=O)[O-].[K+]
reactant | 1-methylsulfanylmethyl-3-nitro-1H-pyrazole | 1.12 mmol, 194 mg | CSCN1N=C(C=C1)[N+](=O)[O-] | C5H7N3O2S
reactant | methanol | 10 mL | CO | CH4O
solvent | water | 100 μL | O | H2O
product | 1-methanesulfonylmethyl-3-nitro-1H-pyrazole | 184 mg, 80% | CS(=O)(=O)CN1N=C(C=C1)[N+](=O)[O-] | C5H7N3O4S
